US07855166B2
N-(tert-Butyl)-2-iodo-6-methoxybenzenesulfonamide (Example 2.092b)
A solution of 30.00 g (123.29 mmol) of N-(tert-butyl)-2-methoxybenzenesulfonamide in 400 ml of tetrahydrofuran is cooled to −70° C. and slowly admixed with a solution of 110.96 ml (277.41 mmol) of a 2.5 molar n-butyllithium solution in THF. The solution is subsequently warmed briefly to −30° C. and then cooled again to −60° C. At this temperature a solution of 31.29 g (123.29 mmol) of iodine in 200 ml of tetrahydrofuran is added dropwise. Subsequently the reaction solution is stirred at room temperature overnight. Following extraction with water, the organic phase is dried over sodium sulfate and evaporated to dryness. This gives 42.40 g (93% of theory) of N-(tert-butyl)-2-iodo-6-methoxybenzenesulfonamide.

reactant | N-(tert-butyl)-2-methoxybenzenesulfonamide | 123.29 mmol, 30.00 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)OC | C11H17NO3S
reactant | n-butyllithium | 2.5 molar | C(CCC)[Li]
reactant | iodine | 123.29 mmol, 31.29 g | II | I2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-(tert-Butyl)-2-iodo-6-methoxybenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1OC)I | C11H16INO3S
